US04093736
(c) 6-(4-Hydroxyphenyl)hexyl iodide
A solution of 68 g. (0.25 mole) of 6-(4-methoxyphenyl)hexyl bromide in 500 ml. of glacial acetic acid was treated with 200 ml. of 50% aqueous hydriodic acid. The reaction was boiled at reflux for 5 hours. During the reflux period the condenser was removed briefly from time to time to allow methyl iodide to escape. The reaction was evaporated to dryness in vacuo. The residue was partitioned between water and ether. The organic phase was washed with water, then with dilute sodium thiosulfate until the iodine color was gone. The clear organic solution was evaporated in vacuo in a warm water bath to give a clear oil, 70 g. (92%) of 6-(4-hydroxyphenyl)hexyl iodide, which crystallized slowly after several days at room temperature.

reactant | 6-(4-methoxyphenyl)hexyl bromide | 0.25 mole | COC1=CC=C(C=C1)CCCCCCBr | C13H19BrO
reactant | hydriodic acid | I | HI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(4-Hydroxyphenyl)hexyl iodide | OC1=CC=C(C=C1)CCCCCCI | C12H17IO
